US07135479B2
3-Azetidin-3-ylmethyl-5-fluoro-1-methyl-1H-indole
This compound was prepared as described for Intermediate 31, using 3-(1-benzhydryl-azetidin-3-ylmethyl)-5-fluoro-1-methyl-1H-indole (0.37 g, 0.94 mmol), palladium on carbon (10%, ˜0.1 g) and ammonium formate (0.24 g, 2.8 mmol), to afford 0.18 g of the title compound as a clear oil. The oxalate was prepared in ethanol and collected as a white solid, m.p. 155–156° C.

reactant | 3-(1-benzhydryl-azetidin-3-ylmethyl)-5-fluoro-1-methyl-1H-indole | 0.94 mmol, 0.37 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)CC1=CN(C2=CC=C(C=C12)F)C | C26H25FN2
reactant | ammonium formate | 2.8 mmol, 0.24 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | ˜0.1 g | [Pd] | Pd
product | 3-Azetidin-3-ylmethyl-5-fluoro-1-methyl-1H-indole | 0.18 g | N1CC(C1)CC1=CN(C2=CC=C(C=C12)F)C | C13H15FN2
